Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I have not slept more than ___ hours since the end of ___

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry 
Consult note:
"Of note, ED nurse states that patient has just received PO 
Ativan 1 mg once (for anxiety) prior to psychiatry arrival. As 
such, patient is sleepy with limited interview as noted below.

When asked why she is in the ED, the patient reports "I just had 
a rush of anxiety. This made me wonder where this was coming 
from. We made some productive steps here, here in the ED talking 
about plans forward. Basically I've never been unreliable but 
this depression and anxiety has been making me less reliable, 
cancelling meetings because the right technology or part is not
there yet." 

She feels that her primary problems are her anxiety and 
indecision. She states she came to the ED tonight because her 
anxiety is worse than usual. She notes that her anxiety started 
a year ago around the time of her divorce. She states that 
"everything that I've been having at home, with anxiety worse at
nighttime, is not working. I'm loading up on tylenol ___, 
magnesium powders, melatonin, my friend gave me a barbituate 
once... but none of it is working." 

She relates her indecision as connected to feeling that she has 
depression. She describes a vignette of being offered various 
classes to take, but that she felt obligated to listen to her 
parent's advice because they support her, and they advised her 
against taking a class. She describes a behavior of then signing 
up for the class, canceling, signing up again, and then 
canceling. She describes this is as new behavior for her. 
Parents are supporting her financially as she is a ___ 
and some of her projects in the ___ fell through. She will 
have to move out of her apartment because of this and will begin 
living with her parents again in ___.

She states having thoughts the other day of how many pills she 
would need to overdose. She describes looking up dosages on the 
internet for tylenol and advil needed for overdose. She states 
that these thoughts are new for her. Denies intent of acting on 
this. No actions of buying any Tylenol or advil. No prior SAs. 
No formal hx of psychiatric diagnoses. 

Denies prior psychiatric hospitalizations, but later describes a 
stay in the hospital in her ___ for "anxiety and finding strange 
things on my thyroid glands." She clarifies this was in medical 
hospital and not a psychiatric hospital. She stated that they 
felt this could explain her anxiety and weight loss but 
providers at the time then did not recommend medications or 
surgery, no
follow up after that; pt is not sure with thyroid levels last 
checked. 

No current outpatient psychiatrist and therapist. Had prior 
providers but changed due to insurance issues, stopped seeing 
them last summer. Pt denies hx of prescribed medication trials. 
Saw those providers only approx 6 times.

However, of particular note, patient describes a long history of 
utilizing her husband's ADHD medication. She states, "I've 
always wondered if I have ADHD. Throughout my marriage, I took 
my husband's ADHD medications to keep up with him and graduate 
school, and to keep up as a support system to my mother and
sister during my ___ marriage. I used his ADHD meds to 
concentrate, and as an antidepressant I guess, and it was 
helpful. I liked how it made me feel afterwards, like an 
adrenaline rush, so instead of getting calm you get a rush of 
concentration and have been effective." She states that she 
started taking this medication on their first dates, when he 
would give them to her. States she ultimately took ADHD 
medication recreationally a couple of times a week for a couple 
of years.

Recently, she states that she has also had poor sleep since 
___, with ___ hours of sleep every night. She cannot 
identify stressors out of the ordinary in ___ or ___ of 
last year but relates this simply to stressors of worrying about 
"seeing people the next day, in the morning"

When asked about AVH states "not really." Endorses "maybe 
hearing voices." She states "it is hard to hear if this is 
voices or just the lists of things in my mind from being a 
perfectionist and overachiever. It's hearing other people tell 
me different things of what is needed, like what form is needed 
when lifting a box, hearing my own voice for judging me for not 
finishing things as
quickly as I said I would. Sometimes it just feels like 
self-critical voices."

She also notes having Panic Attacks starting in ___. 
Describes having "long panic attacks for a few hours in my 
apartment." She states that during the panic attacks has 
experiences stomach pain ("like a black hole of dread"), pulls 
her hair, growls, yells in her apartment in the middle of the 
day. Helpful measures are deep breathing, meditation, as well as 
drinking wine and smoking a cigarette. 

She reports PTSD initiating from ___ has now surfaced more due
to living alone. In ___, she states that her wedding was "a 
very
traumatic day" because "lots of family relationships shifted 
that
day in weird ways," with people taking on new roles with her "as
the baby of the family getting married." She states her mother
and sister relationship shifted that week from being close to
completely ending. Patient is vague about this but reiterates
again vaguely that she was the baby in the family, and that she
was the key in the family dynamics working together; states her
sister otherwise did not like her mother's ___. After 
that
time, there were other family dynamic shifts - prior to pt's
birth to father, mom was previously married to a first husband
who died of alzheimers a year after pt's wedding (pt has 3 much
older step-siblings from that marriage). Patient describes that
in this context she was acting as a therapist role in her mother
having mixed memories of this man. Pt also notes trauma from
taking care of mother who had colorectal cancer, and then 
"living
with mother over at ___ when mother had serious infections 
after
this operation (mother alive and well now). In addition, after
pt's divorce last year, she had returned home to live with her
parents but subsequently lived alone. Now that she lives alone
she feels more resentment and worry. 

Regarding other life events, she states she has a new boyfriend.
Pt is employed in ___ and ___ but states that
consulting work has not been going as well lately. Teaches 
___
Thinking.

Regarding physical symptoms, she is aware from the ED that "I
have a lot of water in my system." She is not sure why this is
the case, denies any drinking patterns out of the ordinary.
States that "I can feel lots of water in my body, like 
diarrhea."
States she feels medically well otherwise. 

When asked how we can be most helpful, she states that "I think 
I
need a real anxiety med. It would be great if this could help me
concentrate on my work as well like the ADHD medication did." 
She
is not clear what dispo is most helpful but states that "I need 
a
treatment plan."

Collateral from Dr. ___ ___ Telephone Note:
Spoke to patient's friend, ___ (___) over the 
phone:
Ms. ___ describes that "patient was very unstable, it's been
progressively getting worse over the past month or so". They
spoke on the phone yesterday and patient was talking about 
having
challenges managing her work. Ms. ___ to talk her through 
the
challenges, but she wouldn't respond, at times yelling, couldn't
put together a full sentence, saying "I just can't do it". On
___ night, patient was talking about not wanting to be alone,
and feeling lonely, which made Ms. ___ concerned. Patient 
was
desperate for ___ to stay with her for as long as she could; Ms.
___ stayed with the patient overnight.
She doesn't think that patient can go home and take care of
herself. 

Ms. ___ has been encouraging patient to go to therapy, but
she hasn't gone since her divorce (was in couples' therapy with
ex-husband and to her own therapy after divorce, but eventually
stopped as she did not see any benefit from that); patient
doesn't usually open up, at times not even to Ms. ___.
Patient decided to come to the hospital for anxiety medications.

Patient has been having a hard time with her appetite, was very
thin, she believes that there is a history of eating disorder 
and
possible GI issues from that. Went out for lunch, able to eat
food, but then would have GI symptoms and diarrhea, and friend
was worried.

This was building up. She's going through a lot with family:
mother diagnosed with cancer. Divorce one year ago. Moving 6
times in ___ years. Ms. ___ thinks patient didn't process
what's been happening and just pushed through. 

About 1 month ago, things started deteriorating at work, she was
very concerned about it and unsure about herself. Was looking to
___ and ___ for advice of what to do. Was unable to make
decisions for herself. And has been getting more stressed out 
and
unsure about how to handle it. Couldn't engage in conversation
about coping skills with ___. Patient redacted herself out of
obligations that she had with some of the contracts. Yesterday
she wanted to call everybody whom she had professional
obligations with and bow out of it because she didn't think she
could handle that; seemed destructive to remove all of these
relationships that she's been building for years. 

___ also thinks that patient has been taking husband's ___
for many years. No ongoing alcohol or substance use that Ms.
___ is aware of."

In the ED, patient remained in good behavioral control without
requiring physical or chemical restraints.
___ 21:35 PO Lorazepam 1 mg   
___ 17:31 PO Lorazepam 1 mg 

On interview today, patient corroborated the above information.
She endorsed continuing to feel very anxious, and reports that
she believes she is here because of likely concerning things her
friends told the emergency room physicians and her stated SI 
with
plan and research to OD. She denied having any SI now, and says
that since having those thoughts at home, she hasn't had any
since arriving to the hospital. She states being amenable to
approaching staff should she start to have SI. She reports that
her symptoms started getting worse in ___ because she 
started
working on ___ which was overwhelming for her. She says that
when she is feeling most anxious and without sleep she sometimes
experiences AVH seeing "ribbons in my peripheral vision" and
hearing "an army of people yelling at me." She is denying AVH at
this present encounter. She reports experiencing significant
social anxiety with fear limiting her ability to present in
meetings. She reports that despite her lack of sleep, she has
boundless energy, able to engage in extensive exercise without
becoming fatigued, has increased goal directed behavior (though
reports starting a lot of projects without finishing them), and
endorses racing thoughts. 

In addition to these symptoms, she also reports a "feeling of
dread in [her] stomach", being more isolative, decreased
self-esteem, feelings of guilt, decreased motivation towards 
self
care (like not wanting to cook and instead eating spoonfuls of
peanut butter instead), decreased appetite with ___ lbs
unintentional weight loss over last month, and overall "feeling
like a failure." 

REVIEW OF SYSTEMS:
-Psychiatric: 
- Depression: depressed mood, poor sleep, appetite poor.
- Mania: ___ Hours /night for last several months. Endorses hx 
of
addicted to online shopping in her ___, attributes this to being
depressed. Denies any hx of gambling, speeding, other impulsive
behavior.
- SI: denies
- HI: denies
- Anxiety: endorses, stating that "I can get on a treadmill for
an hour because I have so much anxiety in my body, running just
for the relief of this." Also endorses panic attacks in ___
- OCD: describes herself as perfectionistic but denies any
ritualistic activities
- PTSD: as per HPI
- Psychosis/Hallucinations/Delusions: AH as per HPI. Denies VH.
- Eating Disorders: "when I was younger" but no formal 
diagnosis,
states she "didn't eat much, was 118 pounds, for two days of the
week I would only eat an apple."
-ADHD/Learning Disorders: as noted above
-General: Denies fatigue, fever, chills, nightsweats, headache,
focal numbness, focal weakness, changes in vision, changes in
hearing, heat intolerance, cold intolerance, polyuria,
polydipsia, cough, SOB, CP, palpitations, abdominal pain, 
nausea,
vomiting, diarrhea, constipation, melena, dysuria, increased
urinary frequency, rash, skin changes, joint pain, muscle pain,
edema, bruising, bleeding.

 
Past Medical History:
Past Medical History:
-Hx of "stomach issues" since childhood
-Hx of "strange things on my thyroid glands"
-Gallbladder removal at age ___
-PCP: ___, MD - he is new, no recent provider 
prior
-___ history of head trauma, seizure.

Past Psychiatric History:
-Prior diagnoses: denies
-Hospitalizations: denies
-Partial hospitalizations: denies
-Psychiatrist: denies
-Therapist: was seeing ___ years ago in the context of family 
issues
-Medication trials: denies prescription trials but has taken 
husband's ADHD medications (___) as per HPI
-___ trials: denies
-Suicide attempts: denies
-Self-injurious behavior: bruising on legs the last couple of
days from squeezing with hands when anxious but states this was
unintentional (this is new behavior for her)
-Harm to others: denies
-Trauma: endorses trauma, elaborates with many vignettes as per
HPI including her wedding day, complicated family dynamics, 
taking care of her mother while sick (recent cancer diagnosis)
-Access to weapons: denies

 
Social History:
(Extracted from ___ ___ ED Initial 
Psychiatry Consult note, reviewed with patient, and updated as 
appropriate):
PERSONAL AND SOCIAL HISTORY 
-Born/Raised: ___
-Relationship status/Children: Divorced ___ year ago, no children. 
Has boyfriend who is supportive, although she has expressed that 
she may need to some space from him to deal with personal 
issues.
-Primary Supports: Close to mom and has good friends
-___: Has been living in an apartment alone but will move 
back with parents in ___ due to pt's financial problems and 
subsequently losing her apartment
-Education: ___ in "Games and Simulations for Learning"
-Employment/Income: teaching and consulting
-Spiritual: denies

SUBSTANCE USE HISTORY
- Cigarettes: occasional, states that this is to relax
- EtOH: ___ drinks per day (red wine) as a means to relax, which 
includes even drinking wine at lunch or even sips at times at 
breakfast, "treating it less as wine and more as a spoonful of 
medicine". At one point was also taking swigs of vodka to relax.
- Illicits/IVDU: denies MJ, cocaine, speed, ecstasy, or other 
substances.

FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Dx: denies
- SAs/Deaths by Suicide/Suspicious Deaths: denies
- EtOH/Substance Use D/Os: alcohol "maybe"
 
Physical Exam:
ADMISSIONS EXAM:
VITAL SIGNS:
T 98.3; BP 110/79; HR 82; RR 20; sat 100% RA 

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "Things are happier in a different place."
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: ___ year old woman appearing stated age, well
groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "shame and guilt"
-Affect: Mood-incongruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: mostly linear, coherent, goal-oriented but
intermittently tangential, no loose associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Fair

=========
DISCHARGE EXAM
Mental Status:
-Appearance: ___ year old woman appearing stated age, well 
groomed, wearing loose black blouse and pants, in no apparent 
distress
-Behavior: Sitting up in chair, appropriate eye contact, no 
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, anxious 
-Mood: "better"
-Affect: anxious, mood-congruent, full range, appropriate to
situation
-Speech: Normal rate, volume, and tone
-Thought process: linear, coherent, goal-oriented , no loose 
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be responding to
internal stimuli
-Insight: fair
-Judgment: Fair
 
Pertinent Results:
___ 07:50PM BLOOD WBC-11.1* RBC-4.27 Hgb-13.4 Hct-38.4 
MCV-90 MCH-31.4 MCHC-34.9 RDW-12.3 RDWSD-40.0 Plt ___
___ 07:50PM BLOOD Neuts-61.8 ___ Monos-9.1 Eos-0.5* 
Baso-0.3 Im ___ AbsNeut-6.84* AbsLymp-3.09 AbsMono-1.01* 
AbsEos-0.05 AbsBaso-0.03

___ 07:50PM BLOOD Glucose-95 UreaN-6 Creat-0.6 Na-128* 
K-4.3 Cl-90* HCO3-23 AnGap-15
___ 06:25AM BLOOD Glucose-90 UreaN-13 Creat-0.9 Na-142 
K-4.9 Cl-104 HCO3-23 AnGap-15

___ 06:25AM BLOOD Calcium-9.3 Phos-4.3 Mg-2.1
___ 06:25AM BLOOD VitB12-188*
___ 07:50PM BLOOD TSH-1.0
___ 06:25AM BLOOD 25VitD-32
___ 06:25AM BLOOD ALT-21 AST-17 AlkPhos-36 TotBili-0.2

___ 07:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 06:15AM BLOOD %HbA1c-4.7 eAG-88
___ 06:15AM BLOOD Triglyc-46 HDL-83 CHOL/HD-1.9 LDLcalc-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11). On ___ she signed a 3 day 
notice that expired on ___. They were also placed on 15 
minute checks with green sharps status on admission and remained 
on that level of observation throughout while being unit 
restricted. 

2. PSYCHIATRIC:
Ms. ___ is a ___ yo divorced female with no formal PPH and no 
significant PMH who endorsed increasing anxiety over the past 
few weeks and SI with internet search regarding how many Tylenol 
pills would be needed. ED staff also noted AH, pressured speech, 
and possibility of mania. 

On initial assessment endorsed increased depression with low 
self esteem, fatigue,
decreased level of energy, self doubt, increased tearfulness, 
decreased concentration. Sense of worthlessness. She endorsed 
feelings of worthlessness and guilt and felt she was a burden to 
her family and friends. She also reported decrease of appetite. 
She lost 10 lbs in a period of 3 months and noted her current 
weight was 108 lb which made her underweight given her height of 
5'6. She also endorsed looking up the lethal dosing of 
acetaminophen in the internet as she was feeling overwhelmed. 
Her stressors included her job, and finalcial stressors which 
would cause her to move in back with her parents. She was also 
struggeling to keep up with her multiple projects outside of 
work and felt she was going to ultimately fail in all of these. 
Patient was also struggeling with her current relationship as 
she had been thingking of endindg her relationship but her 
partner disagreed which caused some increased stress. She 
endorsed constantly thinking about all of her issues, and she 
would perseverated on her past, current and future problems 
during multiple times in the interviews. Her main complaints 
during this current hospitalization in addition to her 
depression and anxiety was her insomnia. Therefore she was 
started on Remeron 15 mg QHS on ___. Patient took one dose 
but felt severely sedated during the day time, and was concerned 
about side effects of weight gain. During her hospitalization 
patient was noted to be fixated on her weight, she endorsed 
gluten and lactose intolerance and was observed to eat minimal 
amounts at meal times. Concern for an eating disorder was raised 
however it did not appear to be patients primary issue during 
current hospitalization. Considered starting on Welbutrin 
however due to weight loss side effects it was decided not to 
start this medication. Given patients wishes to start a weight 
neutral medication she was started on Zoloft 25 mg on ___ ___s Ativan 0.5 mg twice daily as necessary for sleep and 
anxiety. Given the severity of her anxiety symptoms patient was 
offered Risperdal 0.25 mg QHS, as an adjunct for the treatment 
of her depression and anxiety. Concern for possible underlying 
bipolar disorder was raised given her disorganization, tendency 
to ruminate, and past periods of insomnia where patient endorsed 
feeling tired but at the same time activated. At time of 
discharge patient was not observed to have evidence of manic 
symptoms, her presentation was thought to be due to her 
underlying anxiety disorder with superimposed mayor depressive 
disorder. Psychological testing was recommended for patient 
however given this would potentially extend her hospital stay 
patient opted to not complete testing at this time. At time of 
discharge patient continued to endorse somewhat improved 
anxiety, but continued to endorse some difficulty with making 
decisions therefore Risperdal was increased to 0.5 mg at night 
on ___. Patient was in agreement with plan. Did endorse 
improved sleep with her current medication regimen. Patient was 
no longer endorsing suicidal ideation, was future oriented and 
planed to return to her job, and other responsibility as well as 
continue to work on her mental health by following up with the 
___ system were she would start individual therapy 
and later be referred to a psychiatrist for medication 
management.

On exam on ___: Ms. ___ reported feeling better. She has been 
asking for the discharge. She clearly denied S/I. She shared 
about positive plans for future. As protective factors, she 
shared:"I have too many people in my life". She explained that 
she cared about her family.
Ms. ___ already called her parents. Writer shortly has met with 
parents. They are comfortable with pt's discharge. In fact, 
parents thought that longer stay could have more negative effect 
on pt's wellbeing.

3. SUBSTANCE USE DISORDERS:
#Cigarette smoking
Patient endorsed occasion cigarette smoking as a way to relax 
and cope with anxiety. She was counseled on smoking cessation, 
to which she was receptive and expressed motivation to stop. She 
had been choosing meditation over smoking. She was provided with 
nicotine gum.

#Alcohol use
Patient endorsed increased drinking recently in the setting of 
increased stress and insomnia, endorsing ___ glasses on wine per 
night. She was provided with alcohol use counseling and 
psychoeducation around negative effects of substance use on 
mental health as well as negative effect on sleep.

4. MEDICAL
During workup for organic causes of symptoms, she was found to 
have low vitamin B12. This was repleted with 100 mcg of B12 PO 
daily. Patient also had A1c and fasting lipid panel on ___, 
results were pending on discharge, patient will follow-up later 
today with PCP. 
No other medical issues during current admission, monitored 
throughout stay. 

5. PSYCHOSOCIAL
# GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Patient 
was intermittently involved in various groups that focused on 
teaching patients various coping skills. She was noted to be 
engaged, supportive and social with peers. Overall she made 
progress towards her OT goals. Patient was visible in the milieu 
on the periphery and was observed to be interactive and social 
with select other peers. 

# COLLATERAL CONTACTS & FAMILY INVOLVEMENT
At time of presentation, friend ___ was contacted to 
provide collateral regarding recent behavior and recent 
stressors in patient's life. Family meeting on ___ involving 
medical care team and social worker, patient and her parents 
occurring to communicate plan and discuss discharge plan. 

# INTERVENTIONS
- Medications: Mirtazapine, hydroxyzine, Lorazepam, Sertaline, 
Risperdal 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: patient was referred to Arbour 
Counseling for outpatient therapy and they will coordinate 
psychiatric care, PCP appointment already in place for same day 
of discharge
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
patient was encouraged to attend group therapy that focused on 
coping skills building, CBT and DBT skills
-Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting mirtazapine (such as sedation and weight gain), and 
risks and benefits of possible alternatives (Wellbutrin's 
activating effects, including not taking the medication, with 
this patient. We also discussed the above for hydroxyzine 
(sleepiness), and lorazepam (addictive qualities, respiratory 
depression) Risperdal ( EPS symptoms, day time sedation, 
orthostasis, prolactinemia) . Finally we also discussed the 
above for Sertaline, including the possibility of inducing 
mania, serotonin syndrome, increased suicide ideation, increased 
anxiety initially, common side effects of nausea/vomiting, 
insomnia and decreased sex drive. We discussed the patient's 
right to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team.  The patient appeared able to understand and 
consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon suicide ideation, 
endorsed researching plan for overdose on Tylenol on the 
internet. Her static factors noted at that time include 
Caucasian race, age, marital status. The modifiable risk factors 
were also addressed at that time including; suicidal ideation 
with plan, disorganized behavior, hopelessness, limited coping 
skills, no established outpatient treatment, insomnia, lack of 
purpose, polarized thinking, recent divorce. These were 
addressed though medication management, engagement in individual 
and group therapy, as well as establishment of outpatient 
follow-up with mental health providers. Finally, the patient is 
being discharged with many protective risk factors, including 
help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family,  life satisfaction, lack of suicidal 
ideation, no history of abuse, ability to tolerate rejection, 
and strong social supports. Based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is, fair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Yaz (28) (drospirenone-ethinyl estradiol) ___ mg oral 
DAILY 

 
Discharge Medications:
1.  Cyanocobalamin 100 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 100 mcg 1 (One) tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0 
2.  HydrOXYzine 50 mg PO QHS 
RX *hydroxyzine HCl 50 mg 1 (One) tab by mouth at bedtime Disp 
#*30 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO QHS:PRN insomnia and anxiety  
RX *lorazepam 0.5 mg 1 (One) tab by mouth daily Disp #*10 Tablet 
Refills:*0 
4.  Nicotine Polacrilex 2 mg PO Q1H:PRN tobacco cravings 
RX *nicotine (polacrilex) 2 mg use as needed for nicotine 
cravings Q1H Disp #*30 Gum Refills:*0 
5.  RisperiDONE 0.5 mg PO QHS severe anxiety 
RX *risperidone [Risperdal] 0.5 mg one tablet(s) by mouth at 
bedtime Disp #*30 Tablet Refills:*0 
6.  Sertraline 25 mg PO DAILY 
RX *sertraline 25 mg 1 (One) tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
7.  Yaz (28) (drospirenone-ethinyl estradiol) ___ mg oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ depressive disorder with anxious features 
Generalized anxiety disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for symptoms of worsening 
depression, anxiety. While you were here you were started on 
medications, and engaged in individual and group therapy. You 
responded well and are now ready to be discharged home.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___